US09029544B2
(3R,9S)-9-(tert-butyldimethylsilyloxy)-4-(methoxymethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
20 mg Sodium are dissolved in 3 ml methanol cooled to 0° C. and treated dropwise with a solution of 57 mg ((3R,95)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methyl methanesulfonate in 0.5 ml methanol. After stirring for 12 hours at room temperature the mixture is diluted with diethylether, washed with saturated aqueous ammonium chloride and dried with magnesium sulphate. The solvents are evaporated in vacuo. The product is directly used in the next step.

reactant | Sodium | 20 mg | [Na] | Na
reactant | ((3R,95)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methyl methanesulfonate | 57 mg | CS(=O)(=O)OCC1=NC=2CC(C[C@@H](C2C2=C1[C@H](OC21CCOCC1)C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C)(C)C | C32H44F3NO6SSi
reactant | methanol | 3 ml | CO | CH4O
reactant | methanol | 0.5 ml | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | (3R,9S)-9-(tert-butyldimethylsilyloxy)-4-(methoxymethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)COC)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C32H44F3NO4Si
